US06956050B2
STEP 2. 2-[4-(2-Aminoanilino)phenyl]ethanol
To a stirred solution of 2-[4-(2-nitroanilino)phenyl]ethanol (2.0 g, 7.6 mmol) in methanol (15 mL) was added 10% Pd—C (160 mg). The mixture was stirred at room temperature for 6 h under hydrogen atmosphere. The palladium catalyst was removed by filtration and washed with ethanol (100 mL). The filtrate was concentrated under reduced pressure to afford 1.6 g (92%) of the title compound as pale yellow solids: 1H-NMR (CDCl3)δ2.79 (2H, t, J=6.6 Hz), 3.75 (2H, br), 3.80 (2H, t, J=6.6 Hz), 5.14 (1H, s), 6.82-6.66 (4H, m), 7.15-6.96 (4H, m).

reactant | 2-[4-(2-nitroanilino)phenyl]ethanol | 7.6 mmol, 2.0 g | [N+](=O)([O-])C1=C(NC2=CC=C(C=C2)CCO)C=CC=C1 | C14H14N2O3
solvent | methanol | 15 mL | CO | CH4O
catalyst | Pd—C | 160 mg | [Pd] | Pd
product | 2-[4-(2-Aminoanilino)phenyl]ethanol | 1.6 g, 92% | NC1=C(NC2=CC=C(C=C2)CCO)C=CC=C1 | C14H16N2O
